US07145047B2
5.7 g of magnesium was suspended in 12 ml of tetrahydrofuran. To the suspension was then added dropwise a solution of 50 g of 6-bromo-2-methoxynaphthalone in 200 ml of tetrahydrofuran at a rate such that tetrahydrofuran was gently refluxed. The reaction mixture was then further stirred for 1 hour. To the reaction solution was then added dropwise a solution of 30 g of 4-propylcyclohexanene in 120 ml of tetrahydrofuran at room temperature. The reaction mixture was then further stirred for 1 hour. To the reaction solution was then added 200 ml of a 10% hydrochloric acid. The reaction mixture was extracted with 300 ml of toluene, washed with water, saturated aqueous solution of sodium bicarbonate and saturated brine, and then dried over anhydrous sodium sulfate. The solvent was then distilled off. To the residue were then added 280 ml of toluene and 4.0 g of p-toluenesulfonic acid monohydrate. The reaction mixture was then heated under reflux for 3 hours. The reaction solution was allowed to cool to room temperature, washed with water, saturated aqueous solution of sodium bicarbonate and saturated brine, and then dried over anhydrous sodium sulfate. The solvent was then distilled off. The residue was then recrystallized from ethanol to obtain 44.8 g of 2-methoxy-6-(4-propylcyclohexa-1-ene-1-yl)naphthalene.

reactant | magnesium | 5.7 g | [Mg] | Mg
reactant | 6-bromo-2-methoxynaphthalone | 50 g | BrC=1C=C2C=CC(C(C2=CC1)=O)OC | C11H9BrO2
reactant | 4-propylcyclohexanene | 30 g | C(CC)C1CC=CCC1 | C9H16
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 2-methoxy-6-(4-propylcyclohexa-1-ene-1-yl)naphthalene | 44.8 g | COC1=CC2=CC=C(C=C2C=C1)C1=CCC(CC1)CCC | C20H24O
